US06444685B1
N-Benzyl-4-{4-[2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from N-[5-(2-Amino-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide and Reference Example 70, N-benzyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as an off-white solid. 1H NMR (DMSO) δ 1.33 (m, 2H), 1.86 (m, 2H), 2.67(m, 3H), 2.89(s, 3H), 2.99(m, 2H), 3.69(m, 2H), 3.85(s, 2H), 4.49(m, 1H), 6.83 (d, 1H, J=6.0 Hz), 7.00(m, 2H), 7.19 (s, 1H), 7.24 (m, 6H), 7.56 (d, 2H, J=6.6 Hz); MS (ES) m/z: 575.1 (MH+); HRMS for C27H34N4O6S2: 575.2015 (MH+).

reactant | N-[5-(2-Amino-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide | NCC(O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | N-benzyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C18H20N2O3S
product | N-Benzyl-4-{4-[2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NCC(C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C27H34N4O6S2
